US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine (1.19 g, 2.27 mmol), 4-[1H-benzoimidazole-2-carbonyl]-piperidine (1.65 g, 3.41 mmol) and diisopropylethylamine (1.47 g, 11.35 mmol) and acetonitrile (11 mL). Reflux the reaction mixture overnight, dilute with ethyl acetate and extract successively with a saturated aqueous NH4Cl solution, 5% aqueous NaHCO3 solution, water and saturated aqueous NaCl solution. Separate the organic layer, dry over anhydrous Na2So4, filter and remove the solvent in vacuo. Chromatograph the residue on silica gel eluting with ethyl acetate/methanol (5/1), evaporate the solvent and dry overnight at 82° C. at 0.20 torr to yield title compound: mp; 113.0-116.0° .C, Rf=0.23 (silica gel, 5/1 ethyl acetate/methanol). Elemental Analysis calculated for C37H44N4O7: C 67.66; H 6.75; N 8.53; Found: C 67.00; H 6.77; N 8.39.

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-dimethoxy-phenyl)-3-(2-methanesulfonyl-ethyl)-pyrrolidine | 2.27 mmol, 1.19 g | COC=1C=C(C(=O)N2CC(CC2)(CCS(=O)(=O)C)C2=CC(=C(C=C2)OC)OC)C=C(C1OC)OC | C25H33NO8S
reactant | 4-[1H-benzoimidazole-2-carbonyl]-piperidine | 3.41 mmol, 1.65 g | N1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C13H15N3O
reactant | diisopropylethylamine | 11.35 mmol, 1.47 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetonitrile | 11 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-(3,4-dimethoxy-phenyl)-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)OC)OC)CCN2CCC(CC2)C(=O)C2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C37H44N4O7
